US08026257B2
(±)-tert-butyl 4-((1-(5-chloro-3-cyano-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (70 mg, 0.137 mmol) was stirred in TFA (2 mL, 26.0 mmol) at 0° C. for 20 minutes. The solvent was evaporated at a bath temperature of 23° C. The residue was taken up in Ethanol (5 mL), then triethylamine (1 mL), formaldehyde (0.102 mL, 1.367 mmol) and sodium triacetoxyborohydride (87 mg, 0.410 mmol) were added. The reaction was stirred 1 hour, then solvent was evaporated. The residue was taken up in aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (4×10 mL). The organic phase was dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with 3%-5%% 2M ammonia in methanol/dichloromethane to give (±)-5-chloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indole-3-carbonitrile (55 mg, 0.129 mmol, 94% yield) as a clear oil. 1H-NMR (CDCl3, 400 MHz) δ 8.27 (bs, 1H), 7.56 (d, J=1.8 Hz, 1H), 7.27 (m, 2H), 7.14 (d, J=2.8 Hz, 1H), 7.08 (t, J=8.5 Hz, 2H), 6.93 (d, J=1.8 Hz, 1H), 4.55 (q, J=6.5 Hz, 1H), 4.55 (m, 1H), 3.19 (d, J=8.6 Hz, 1H), 2.62 (m, 1H), 2.52 (m, 2H), 2.35 (m, 1H), 1.95-2.20 (m, 2H), 1.86 (m, 1H), 1.48 (m, 1H), 1.41 (d, J=6.5 Hz, 3H). LC/MS (HPLC method 4): tR=2.84 min, 426.14(MH)+.

reactant | (±)-tert-butyl 4-((1-(5-chloro-3-cyano-1H-indol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.137 mmol, 70 mg | ClC=1C=C2C(=CNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C#N | C28H31ClFN3O3
reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | formaldehyde | 1.367 mmol, 0.102 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.410 mmol, 87 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | (±)-5-chloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indole-3-carbonitrile | 0.129 mmol, 55 mg, 94% yield | ClC=1C=C2C(=CNC2=C(C1)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F)C#N | C24H25ClFN3O
